US07285558B2
(a) tert-butyl 2-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-imidazol-4-ylcarbamate
This compound was made following the procedure described above, starting with 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 6-chloroquinoline-4-carbaldehyde, followed by tert-butyl 2-formyl-1-methyl-1H-imidazol-4-ylcarbamate.

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | tert-butyl 2-formyl-1-methyl-1H-imidazol-4-ylcarbamate | C(=O)C=1N(C=C(N1)NC(OC(C)(C)C)=O)C | C10H15N3O3
product | tert-butyl 2-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-imidazol-4-ylcarbamate | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(N1)NC(OC(C)(C)C)=O)C)=O)C)=O)CC1CC1 | C29H31ClN8O4
